US06645968B2
4-chloro-N-(2,2,2-trifluoro-1-hydroxyethyl)benzamide
Trifluoroacetaldehyde ethyl hemiacetal and 4-chlorobenzamide were processed as described in Example 1 A to provide the desired product.

reactant | Trifluoroacetaldehyde ethyl hemiacetal | C(C)OC(C(F)(F)F)O | C4H7F3O2
reactant | 4-chlorobenzamide | ClC1=CC=C(C(=O)N)C=C1 | C7H6ClNO
product | 4-chloro-N-(2,2,2-trifluoro-1-hydroxyethyl)benzamide | ClC1=CC=C(C(=O)NC(C(F)(F)F)O)C=C1 | C9H7ClF3NO2
